US05684034
A mixture of 495 mg (1.08 mmol) of 2-[[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid methyl ester and 2 mL of 5N NaOH in 25 mL of ethanol was stirred for 17 hours, the mixture made acidic with 5N HCl and extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried (Na2SO4) and concentrated at reduced pressure. The residue was crystallized from methylene chloride/ether to give 440 mg (92% yield) of 2-[[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid, mp, approximately 100° C.

reactant | 2-[[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid methyl ester | 1.08 mmol, 495 mg | COC(C1=C(C=CC=C1)COC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C28H28N2O4
reactant | NaOH | 5N, 2 mL | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-[[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]methyl]benzoic acid | 440 mg, 92% yield | NC(CC1=C(N(C2=CC=C(C=C12)OCC1=C(C(=O)O)C=CC=C1)CC1=CC=CC=C1)CC)=O | C27H26N2O4
